US06559143B1
tert-Butyl 2-{7-[4-(4-cyanophenyl)butyl]-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl}ethylcarbamate
Triethylamine (2.2 mL, 0.016 mol) and tert-butyl 2-bromoethylcarbamate (see Preparation R above, 2.83 g, 0.013 mol) were added to a solution of 4-[4-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)butyl]benzonitrile (see Preparation G above, 3.0 g, 0.011 mol) in DMF (50 mL). The mixture was stirred for 24 h at 54° C., cooled to 25° C., and concentrated in vacuo. The residue was dissolved in chloroform and washed with saturated sodium chloride. The aqueous layer was separated and extracted with chloroform (2×150 mL). The combined organic layers were dried (Na2SO4) and concentrated in vacuo. The resulting material was chromatographed on silica gel, eluting first with chloroform:acetoritrile:conc. ammonium hydroxide (9:1:0.02) until the higher Rf impurities were removed. Then the eluent was switched to chloroform:methanol:conc. ammonium hydroxide (9:1:0.02). This afforded 2.76 g (61%) of the title compound.

reactant | Triethylamine | 0.016 mol, 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 2-bromoethylcarbamate | 0.013 mol, 2.83 g | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
reactant | 4-[4-(9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl)butyl]benzonitrile | 0.011 mol, 3.0 g | C12CN(CC(CNC1)O2)CCCCC2=CC=C(C#N)C=C2 | C17H23N3O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 2-{7-[4-(4-cyanophenyl)butyl]-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl}ethylcarbamate | C(#N)C1=CC=C(C=C1)CCCCN1CC2CN(CC(C1)O2)CCNC(OC(C)(C)C)=O | C24H36N4O3
